Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
F[c:1]1[c:2]([N+:3](=[O:4])[O-:5])[cH:6][c:7]([I:8])[cH:9][cH:10]1.[NH2:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][n:22]2)[cH:23]1>>[c:1]1([NH:11][c:12]2[cH:13][cH:14][cH:15][c:16](-[c:17]3[cH:18][cH:19][cH:20][cH:21][n:22]3)[cH:23]2)[c:2]([N+:3](=[O:4])[O-:5])[cH:6][c:7]([I:8])[cH:9][cH:10]1,[NH2:11][c:12]1[cH:13][cH:14][cH:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][n:22]2)[cH:23]1.[F:101][c:1]1[c:2]([N+:3](=[O:4])[OH:5])[cH:6][c:7]([I:8])[cH:9][cH:10]1>>[c:1]1([NH:11][c:12]2[cH:13][cH:14][cH:15][c:16](-[c:17]3[cH:18][cH:19][cH:20][cH:21][n:22]3)[cH:23]2)[c:2]([N+:3](=[O:4])[OH:5])[cH:6][c:7]([I:8])[cH:9][cH:10]1,SNAr(ortho),"[(11, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:20][cH:19][c:5](-[c:6]2[n:7][n:8]([CH:9]([CH3:10])[CH3:11])[c:12]3[c:13]([Cl:14])[cH:15][cH:16][cH:17][c:18]23)[cH:4][cH:3]1>>[OH:1][c:2]1[cH:3][cH:4][c:5](-[c:6]2[n:7][n:8]([CH:9]([CH3:10])[CH3:11])[c:12]3[c:13]([Cl:14])[cH:15][cH:16][cH:17][c:18]23)[cH:19][cH:20]1,[CH3:101][O:1][c:2]1[cH:3][cH:4][c:5](-[c:6]2[n:7][n:8]([CH:9]([CH3:10])[CH3:11])[c:12]3[c:13]([Cl:14])[cH:15][cH:16][cH:17][c:18]23)[cH:19][cH:20]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][cH:4][c:5](-[c:6]2[n:7][n:8]([CH:9]([CH3:10])[CH3:11])[c:12]3[c:13]([Cl:14])[cH:15][cH:16][cH:17][c:18]23)[cH:19][cH:20]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][cH:4][c:5]2[cH:6][cH:7][cH:8][cH:9][c:10]2[n:11]1.[O:12]=[N+:13]([O-:14])[c:15]1[cH:16][cH:17][cH:18][c:19](-[c:20]2[cH:21][cH:22][n:23][cH:24][cH:25]2)[c:26]1-[c:27]1[cH:28][cH:29][c:30]([OH:31])[cH:32][cH:33]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[cH:6][cH:7][cH:8][cH:9][c:10]2[n:11]1)[O:31][c:30]1[cH:29][cH:28][c:27](-[c:26]2[c:15]([N+:13](=[O:12])[O-:14])[cH:16][cH:17][cH:18][c:19]2-[c:20]2[cH:21][cH:22][n:23][cH:24][cH:25]2)[cH:33][cH:32]1,[O:12]=[N+:13]([OH:14])[c:15]1[cH:16][cH:17][cH:18][c:19](-[c:20]2[cH:21][cH:22][n:23][cH:24][cH:25]2)[c:26]1-[c:27]1[cH:28][cH:29][c:30]([OH:31])[cH:32][cH:33]1.[Cl:101][CH2:1][c:2]1[cH:3][cH:4][c:5]2[cH:6][cH:7][cH:8][cH:9][c:10]2[n:11]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]2[cH:6][cH:7][cH:8][cH:9][c:10]2[n:11]1)[O:31][c:30]1[cH:29][cH:28][c:27](-[c:26]2[c:15]([N+:13](=[O:12])[OH:14])[cH:16][cH:17][cH:18][c:19]2-[c:20]2[cH:21][cH:22][n:23][cH:24][cH:25]2)[cH:33][cH:32]1,SN2_alcohol(thiol),"[(301, 31.1), ([31.1, 31], 31), (31, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][c:4]1[cH:5][n:6][cH:7][cH:8][n:9]1.[NH2:10][C@@H:11]([CH2:12][O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[NH:23][c:24]1[cH:25][cH:26][c:27]([O:28][c:29]2[cH:30][cH:31][c:32]([F:33])[cH:34][cH:35]2)[cH:36][cH:37]1>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][n:6][cH:7][cH:8][n:9]1)[NH:10][C@@H:11]([CH2:12][O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[NH:23][c:24]1[cH:25][cH:26][c:27]([O:28][c:29]2[cH:30][cH:31][c:32]([F:33])[cH:34][cH:35]2)[cH:36][cH:37]1,[NH2:10][C@@H:11]([CH2:12][O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[NH:23][c:24]1[cH:25][cH:26][c:27]([O:28][c:29]2[cH:30][cH:31][c:32]([F:33])[cH:34][cH:35]2)[cH:36][cH:37]1.[OH:101][C:1](=[O:2])[CH2:3][c:4]1[cH:5][n:6][cH:7][cH:8][n:9]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][c:4]1[cH:5][n:6][cH:7][cH:8][n:9]1)[NH:10][C@@H:11]([CH2:12][O:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[C:21](=[O:22])[NH:23][c:24]1[cH:25][cH:26][c:27]([O:28][c:29]2[cH:30][cH:31][c:32]([F:33])[cH:34][cH:35]2)[cH:36][cH:37]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (10, 1), ([1, 2], 2), (303, 10.1), ([10.1, 10], 10), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
